US07696223B2
e) 2-(4-tert-Butyl-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
2-(4-tert-Butyl-phenyl)-5-(2,4-dimethoxy-benzyl)-7-oxo-4,5,6,7-tetrahydro-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (0.5 g, 0.98 mmol) was dissolved in 6.7 mL of anhydrous dichloromethane. To the solution was added 108 μL of thionyl chloride, and the reaction was stirred for 5 h. The solution was filtered on a fine glass frit filter to collect a white solid precipitate. The solid was washed twice with cold dichloromethane and then partitioned between saturated sodium bicarbonate solution and ethyl acetate. The organic fraction was washed with brine, dried over anhydrous sodium sulfate, and concentrated to produce 0.21 g of a yellow solid. MS: (+) m/z 357.0 (M+1).

reactant | 2-(4-tert-Butyl-phenyl)-5-(2,4-dimethoxy-benzyl)-7-oxo-4,5,6,7-tetrahydro-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.98 mmol, 0.5 g | C(C)OC(=O)C1C(C2=C(CN1CC1=C(C=C(C=C1)OC)OC)N=C(S2)C2=CC=C(C=C2)C(C)(C)C)=O | C28H32N2O5S
reactant | thionyl chloride | 108 μL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 6.7 mL | ClCCl | CH2Cl2
product | 2-(4-tert-Butyl-phenyl)-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.21 g | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C2=CC=C(C=C2)C(C)(C)C)O | C19H20N2O3S
